US07119115B2
1.7 cm3 of methyl vinyl ketone and 0.39 g of potassium hydroxide pellets dissolved in 3 cm3 of ethanol are successively added to a solution, cooled to 0° C., of 4 g of bis(4-fluorophenyl)acetaldehyde in 35 cm3 of ethyl ether. The temperature is left in the region of 20° C. for 24 hours. The mixture is concentrated to dryness under reduced pressure, 75 cm3 of dichloromethane are added and the mixture is washed with twice 75 cm3 of distilled water. After drying over magnesium sulphate and concentrating to dryness under reduced pressure, the residue is purified by flash chromatography on silica gel (30–70 μm), eluting with pure dichloromethane; 3 g of 4,4-bis(4-fluorophenyl)cyclohex-2-enone are thus obtained in the form of a pale yellow oil, the characteristics of which are as follows:

reactant | methyl vinyl ketone | 1.7 cm3 | C(=C)C(=O)C | C4H6O
reactant | potassium hydroxide | 0.39 g | [OH-].[K+]
reactant | bis(4-fluorophenyl)acetaldehyde | 4 g | FC1=CC=C(C=C1)C(C=O)C1=CC=C(C=C1)F | C14H10F2O
solvent | ethanol | 3 cm3 | C(C)O | C2H6O
solvent | ethyl ether | 35 cm3 | C(C)OCC | C4H10O
product | 4,4-bis(4-fluorophenyl)cyclohex-2-enone | 3 g | FC1=CC=C(C=C1)C1(C=CC(CC1)=O)C1=CC=C(C=C1)F | C18H14F2O
